US07973037B2
Synthesis of (2S)-2-{(S)-[(2′,4′-difluorobiphenyl-4-yl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide
The title compound was prepared via the Suzuki cross-coupling of (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide with 2,4-difluorobenzeneboronic acid, in the presence of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), dichloromethane complex. MS (−ESI): 479 [M−1]−

reactant | (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)Br)=O | C20H23BrN4OS
reactant | 2,4-difluorobenzeneboronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S)-2-{(S)-[(2′,4′-difluorobiphenyl-4-yl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C26H26F2N4OS
